US07071182B2
A mixture of 1-(2,2-dimethoxyethyl)-2H-indazol-6-ylamine (1.89 g, 8.60 mmol), 4-phenoxyphenylacetic acid (2.06 g, 9.03 mmol), N-methyl morpholine (2.26 mL, 20.6 mmol), HOBt (1.45 g, 10.75 mmol), and ethyldimethylpropylcarbodiimide hydrochloride (2.06 g, 10.75 mmol) in DMF (40 mL) was stirred at room temperature for 3 hours, diluted with H2O (40 mL) and diethyl ether (30 mL). The layers were separated, and the aqueous was extracted with additional diethyl ether (3×50 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated under reduced pressure to provide a yellow oil which was purified by MPLC (SiO2, 1:1 hexane:ethyl acetate to 1:3 hexane:ethyl acetate) to provide N-[1-(2,2-dimethoxyethyl)-1H-indazol-6-yl]-2-(4-phenoxyphenyl)acetamide as a yellow solid. 1H NMR (300 MHz, DMSO-D6) δ ppm 3.26 (m, 6 H), 3.68 (s, 2 H), 4.37 (d, J=5.42 Hz, 2 H), 4.73 (t, J=5.42 Hz, 1 H), 6.98 (m, 4 H), 7.15 (m, 2 H), 7.38 (m, 4 H), 7.66 (m, 1 H), 7.97 (m, 1 H), 8.11 (s, 1 H), and 10.35 (s, 1 H); MS (ESI) 431 (M−H)−.

reactant | 1-(2,2-dimethoxyethyl)-2H-indazol-6-ylamine | 8.60 mmol, 1.89 g | COC(CN1NCC2=CC=C(C=C12)N)OC | C11H17N3O2
reactant | 4-phenoxyphenylacetic acid | 9.03 mmol, 2.06 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)O | C14H12O3
reactant | N-methyl morpholine | 20.6 mmol, 2.26 mL | CN1CCOCC1 | C5H11NO
reactant | HOBt | 10.75 mmol, 1.45 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethyldimethylpropylcarbodiimide hydrochloride | 10.75 mmol, 2.06 g | Cl.C(C)N=C=NC(CC)(C)C
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | H2O | 40 mL | O | H2O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | N-[1-(2,2-dimethoxyethyl)-1H-indazol-6-yl]-2-(4-phenoxyphenyl)acetamide | COC(CN1N=CC2=CC=C(C=C12)NC(CC1=CC=C(C=C1)OC1=CC=CC=C1)=O)OC | C25H25N3O4
